US08669234B2
2-(5-{7-[2-(1-Boc-pyrrolidin-2-yl)-3H-imidazol-4-yl]-9,10-dihydro-phenanthren-2-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester:
Pd(PPh3)4 (31 mg, 0.03 mmol) was added to a mixture 4,4,5,5-tetramethyl-2-[7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-9,10-dihydro-phenanthren-2-yl]-[1,3,2]dioxaborolane (115 mg, 0.27 mmol), 2-(4-bromo-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester (173 mg, 0.55 mmol), NaHCO3 (159 mg, 1.9 mmol) in 1,2-dimethoxyethane (5 mL) and water (1 mL). The reaction mixture was flushed with nitrogen, heated at 80° C. for 6 hours, and then the volatile component was removed in vacuo. The residue was dissolved in ethyl acetate (100 mL), washed with NaHCO3 solution, water and brine, dried over Na2SO4, filtered and concentrated in vacuo. The obtained residue was purified by flash chromatography to provide the desired product as a white solid (42 mg, 24%). m/z 651.0 (M+H)+.

reactant | 4,4,5,5-tetramethyl-2-[7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-9,10-dihydro-phenanthren-2-yl]-[1,3,2]dioxaborolane | 0.27 mmol, 115 mg | CC1(OB(OC1(C)C)C1=CC=2CCC3=CC(=CC=C3C2C=C1)B1OC(C(O1)(C)C)(C)C)C | C26H34B2O4
reactant | 2-(4-bromo-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.55 mmol, 173 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC=C(N1)Br | C12H18BrN3O2
reactant | NaHCO3 | 1.9 mmol, 159 mg | C(=O)(O)[O-].[Na+]
solvent | 1,2-dimethoxyethane | 5 mL | COCCOC | C4H10O2
solvent | water | 1 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.03 mmol, 31 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(5-{7-[2-(1-Boc-pyrrolidin-2-yl)-3H-imidazol-4-yl]-9,10-dihydro-phenanthren-2-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 42 mg, 24% | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=2CCC3=CC(=CC=C3C2C=C1)C=1NC(=NC1)C1N(CCC1)C(=O)OC(C)(C)C | C38H46N6O4
